data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4702,5360,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23]([CH3:24])=[O:25])[O:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,15.586435941271244,-25.28637413977798
3627,4146,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:16]=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:17]([CH3:18])=[O:19],water,298.15,41.84639842990063,9.142151224383072
3081,3462,[CH3:9][O:10][C:11](=[O:12])[N-:13][N+:14]#[N:15].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([O:10][CH3:9])=[O:12])[N:14]=[N:15]1,water,298.15,28.382141348561948,-11.82214539565704
5043,5731,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[C:22]([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:20]([CH3:21])[C:22]1([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28],water,298.15,43.5043982304014,-5.4044134791894525
4640,5293,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:16]1([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]2([C:12]([CH3:11])=[O:13])[O:25][C:23]1=[O:24],water,298.15,24.11061197828584,4.098174992902717
248,271,[CH3:11][C:12](=[O:13])[C:14](=[NH+:15][NH-:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:14]([C:12]([CH3:11])=[O:13])([C:17]([CH3:18])=[O:19])[NH:15][NH:16]3,water,298.15,21.080058063211208,-26.289344900880327
3412,3882,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][CH:16]1[C:17]#[N:18],water,298.15,15.547625190944094,-40.15554059064753
3039,3401,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[c-:7]1[c:8](=[O:9])[o:10][c:11]([CH3:12])[n+:13]1[CH3:14]>>[CH2:1]1[CH2:2][C:7]2([C:5]([O:4][CH3:3])=[O:6])[C:8](=[O:9])[O:10][C:11]1([CH3:12])[N:13]2[CH3:14],water,298.15,25.77021523979884,-6.73797443586609
2289,2537,[CH3:17][NH:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[O+:24][C-:25]([C:26]#[N:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]([F:10])([F:11])[F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]([F:10])([F:11])[F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([C:22]#[N:23])[O:24][C:25]2([C:26]#[N:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,17.035905737440718,-44.89780517664037
3105,3495,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([CH3:10])[NH+:11]=[C:12]([CH3:13])[C:14]#[N:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([CH3:10])[NH:11][C:12]1([CH3:13])[C:14]#[N:15],water,298.15,23.047511719541863,-25.53959720106321
2875,3194,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C:29]([C:30]([CH3:31])=[O:32])=[N+:33]([CH3:34])[C-:35]([C:36]([CH3:37])=[O:38])[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:35]([C:36]([CH3:37])=[O:38])([c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1)[N:33]([CH3:34])[C:29]2([C:27]([O:26][CH3:25])=[O:28])[C:30]([CH3:31])=[O:32],water,298.15,53.37564080908489,-9.801797174338445
4903,5587,[CH3:10][O:11][C:12](=[O:13])[CH-:14][O+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[O:15][CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,11.070377708203155,-39.656454470478685
